US05684151
4-Bromo-1-(3-bromo-4-fluorobenzoyl)-3-phenyl-1,4,5,6-tetrahydropyridazine (Compound 271)
The title compound was prepared as described in Example 22 starting with 1- (3-bromo-4-fluorobenzoyl)-3-phenyl-1,4,5,6-tetrahydropyridazine and bromine to give a solid: mp 147°-148° C.

reactant | 1- (3-bromo-4-fluorobenzoyl)-3-phenyl-1,4,5,6-tetrahydropyridazine | BrC=1C=C(C(=O)N2N=C(CCC2)C2=CC=CC=C2)C=CC1F | C17H14BrFN2O
reactant | bromine | BrBr | Br2
product | 4-Bromo-1-(3-bromo-4-fluorobenzoyl)-3-phenyl-1,4,5,6-tetrahydropyridazine | BrC1C(=NN(CC1)C(C1=CC(=C(C=C1)F)Br)=O)C1=CC=CC=C1 | C17H13Br2FN2O
